US07855292B2
B. 2-Amino-4-iodo-benzoic acid
4-Iodo-2-nitro-benzoic acid (20 g, 68 mmol, 1.0 equiv.) was dissolved in 200 mL of EtOAc and then SnCl2.2H2O (46 g, 204 mmol, 3.0 equiv.) was added in three portions. The reaction mixture was stirred at rt for 16 h. Satd. aq. NaHCO3 was carefully added to adjust the mixture to pH=9. The precipitated solid was removed by filtration through diatomaceous earth, washing with water. The aqueous layer in the filtrate was separated and acidified with conc. HCl to pH=2. The precipitated solid was collected by filtration and dried to afford the title compound as white solid (19 g, 68 mmol, 100%). 1H NMR (400 MHz, CD3OD): 1H NMR (500 MHz, CDCl3): 7.56 (d, J=8.5, 1H), 7.08 (s, 1H), 6.99 (d, J=8.5, 1H), 5.71 (br s, 2H).

reactant | 4-Iodo-2-nitro-benzoic acid | 68 mmol, 20 g, 1.0 equiv. | IC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4INO4
reactant | SnCl2.2H2O | 204 mmol, 46 g, 3.0 equiv. | O.O.Cl[Sn]Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-Amino-4-iodo-benzoic acid | 68 mmol, 19 g, 100% | NC1=C(C(=O)O)C=CC(=C1)I | C7H6INO2
